US04152433
To a solution of 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem4-carboxylate (syn isomer), which can be represented as 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), (0.1 g.) in tetrahydrofuran (2 ml.) and glacial acetic acid (0.25 ml.) was added zinc powder (0.1 g.) all at once with stirring at keeping the temperature below 25° C. in an ice-bath and then the mixture was stirred for 1 hour at room temperature. To the reaction mixture was further added zinc powder (0.1 g.) and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was filtered, and the insoluble material was washed with a small amount of tetrahydrofuran. After the filtrate and the washing were combined together, the solvents were distilled off. To the residue were added 5% aqueous sodium bicarbonate solution and ethyl acetate so that the aqueous layer became pH 7 to 8, and the mixture was filtered, and then the aqueous layer was separated. The aqueous layer was adjusted to pH 2 to 3 with 2N hydrochloric acid and then concentrated slightly. Thus obtained aqueous layer was subjected to column chromatography (non-ionic adsorption resin, Diaion HP 20 prepared by Mitsubishi Chemical Industries) and the column was washed with water and then eluted with 20% methanol and 40% methanol in turn. The eluates containing the object compound were collected and then lyophilized to give white powder of 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (0.015 g.), mp 230° to 235° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | C16H16Cl3N5O5S2
reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2NC(SC2)=N)=NOC)=O)=O | C16H16Cl3N5O5S2
reactant | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | zinc | 0.1 g | [Zn] | Zn
catalyst | zinc | 0.1 g | [Zn] | Zn
product | 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | C14H15N5O5S2
